US04131736
b. PREPARATION OF 4-METHYL-1,2-OXATHIOLANE-5-ONE-2,2-DIOXIDE
88 g. of isobutyric acid dissolved in 100 g. of sulfuryl chloride is heated at 80° C. and irradiated with a 300 watt tungsten lamp for 2 hours. Addition of ligroin precipitates an oil which has a boiling range 135°-140° at 4mm and is identified as 4-methyl-1,2-oxathiolane-5-one-2,2-dioxide by its equivalent weight, 75.

reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
catalyst | tungsten | [W] | W
product | 4-METHYL-1,2-OXATHIOLANE-5-ONE-2,2-DIOXIDE | CC1CS(OC1=O)(=O)=O | C4H6O4S
